US05972965
A mixture of 2-oxo-1,2-diphenylethyl 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylate (288 mg) and ammonium acetate (427 mg) in acetic acid (1.4 ml) was stirred under reflux for 3 hours, cooled to room temperature, and partitioned between ethyl acetate and aqueous NaHCO3. The organic layer was washed with aqueous NaHCO3 (twice) and brine, dried over MgSO4, and evaporated in vacuo. The residue was chromatographed over silica gel to afford 1-(3-benzyloxybenzoyl)-2-(4,5-diphenyl-2-oxazolyl)piperidine (104 mg) as amorphous powder. (+) APCI-MS (m/z): 515 (M+ +1) IR (Nujol): 1630 cm-1NMR (CDCl3, δ): 1.45-2.05 (6H, m), 2.4-3.75 (2H, m), 4.7-5.25 (3H, m), 7.01-7.37 (15H, m), 7.57-7.67 (4H, m)

reactant | 2-oxo-1,2-diphenylethyl 1-(3-benzyloxybenzoyl)-2-piperidinecarboxylate | 288 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(CCCC2)C(=O)OC(C(C2=CC=CC=C2)=O)C2=CC=CC=C2)C=CC1 | C34H31NO5
reactant | ammonium acetate | 427 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
product | 1-(3-benzyloxybenzoyl)-2-(4,5-diphenyl-2-oxazolyl)piperidine | 104 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(CCCC2)C=2OC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C34H30N2O3
